US06166219
A mixture containing 0.500 g of N-benzenesulfonyl-3-amino-4-acetylaminobenzamide potassium salt, 0.470 g of 4-benzyloxybenzyl bromide, 0.925 g of a 20% potassium hydrogencarbonate aqueous solution and 3 ml of N,N-dimethylformamide was stirred at 90° C. for 1 hour. The reaction solution was concentrated, and was purified through silica-gel column chromatography (eluent: a mixture of ethyl acetate and methanol at a ratio of 9:1) to obtain crude N-benzenesulfonyl-4-acetylamino-3-(4-benzyloxybenzylamino)benzamide. This crude product was cyclized in the same manner as in Example 183 to give 0.160 g of 6-benzenesulfonylcarbamoyl-1-(4-benzyloxybenzyl)-2-methylbenzimidazole (251).

reactant | N-benzenesulfonyl-3-amino-4-acetylaminobenzamide potassium salt | 0.500 g | [K].C1(=CC=CC=C1)S(=O)(=O)NC(C1=CC(=C(C=C1)NC(C)=O)N)=O
reactant | 4-benzyloxybenzyl bromide | 0.470 g | C(C1=CC=CC=C1)OC1=CC=C(CBr)C=C1 | C14H13BrO
reactant | potassium hydrogencarbonate | C(O)([O-])=O.[K+]
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | N-benzenesulfonyl-4-acetylamino-3-(4-benzyloxybenzylamino)benzamide | C1(=CC=CC=C1)S(=O)(=O)NC(C1=CC(=C(C=C1)NC(C)=O)NCC1=CC=C(C=C1)OCC1=CC=CC=C1)=O | C29H27N3O5S
